.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_P=20*LAMBDA
.param width_N=10*LAMBDA
.global gnd vdd
Vdd vdd gnd 1.8
V_clk clk gnd pulse 0 1.8 5ns 100ps 100ps 20ns 40ns
V_D d gnd pulse 0 1.8 10ns 100ps 100ps 35ns 70ns


M1 x d gnd gnd CMOSN W={width_N} L={2*LAMBDA} 
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M2 x clk a vdd CMOSP W={4*width_N} L={2*LAMBDA} 
+ AS={5*4*width_N*LAMBDA} PS={10*LAMBDA+2*4*width_N} AD={5*4*width_N*LAMBDA} PD={10*LAMBDA+2*4*width_N}

M3 a d vdd vdd CMOSP W={4*width_N} L={2*LAMBDA}
+ AS={5*4*width_N*LAMBDA} PS={10*LAMBDA+2*4*width_N} AD={5*4*width_N*LAMBDA} PD={10*LAMBDA+2*4*width_N}

M4 b clk gnd gnd CMOSN W={4*width_N} L={2*LAMBDA}
+ AS={5*4*width_N*LAMBDA} PS={10*LAMBDA+2*4*width_N} AD={5*4*width_N*LAMBDA} PD={10*LAMBDA+2*4*width_N}

M5 y x b gnd CMOSN W={4*width_N} L={2*LAMBDA}
+ AS={5*4*width_N*LAMBDA} PS={10*LAMBDA+2*4*width_N} AD={5*4*width_N*LAMBDA} PD={10*LAMBDA+2*4*width_N}

M6 y clk vdd vdd CMOSP W={2*width_N} L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

M7 c y gnd gnd CMOSN W={2*width_N} L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

M8 q_b clk c gnd CMOSN W={2*width_N} L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

M9 q_b y vdd vdd CMOSP W={2*width_N} L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

M10 q q_b gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M11 q q_b vdd vdd CMOSP W={2*width_N} L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

.tran 10p 500n

* .measure tran tfall_1 TRIG V(d) VAL=0.9 RISE=1 TARG V(x) VAL=0.9 FALL=1
* .measure tran trise_1 TRIG V(d) VAL=0.9 FALL=1 TARG V(x) VAL=0.9 RISE=1
* .measure tran t_setup param='(trise_1+tfall_1)/2'

* .measure tran tfall_1 TRIG V(clk) VAL=0.9 RISE=1 TARG V(q) VAL=0.9 FALL=1
* .measure tran trise_1 TRIG V(clk) VAL=0.9 RISE=2 TARG V(q) VAL=0.9 RISE=1
* .measure tran t_CQ param='(trise_1+tfall_1)/2'

* .measure tran td_xy TRIG V(clk) VAL=0.9 RISE=1 TARG V(y) VAL=0.9 FALL=1


.control

run
set curplottitle = 'A.Pranav_2024102038'
set color0 = white
set color1=black
set linewidth=10
plot v(q) v(d)+2 v(clk)+4
.endc





