.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_P=20*LAMBDA
.param width_N=10*LAMBDA
.global gnd vdd
Vdd vdd gnd 1.8
V_clk clk gnd pulse 0 1.8 5ns 100ps 100ps 20ns 40ns
V_D d gnd pulse 0 1.8 10ns 100ps 100ps 35ns 70ns

.option scale=90n

M1000 a_24_n37# clk gnd gnd CMOSN w=40 l=2
+  ad=0.12n pd=46u as=0.2n ps=90u
M1001 q q_b gnd gnd CMOSN w=10 l=2
+  ad=50p pd=30u as=50p ps=30u
M1002 Y clk vdd w_n24_11# CMOSP w=20 l=2
+  ad=100p pd=50u as=100p ps=50u
M1003 q_b clk a_54_n17# gnd CMOSN w=20 l=2
+  ad=100p pd=50u as=60p ps=26u
M1004 q q_b vdd w_n24_11# CMOSP w=20 l=2
+  ad=100p pd=50u as=100p ps=50u
M1005 X D gnd gnd CMOSN w=9 l=2
+  ad=45p pd=28u as=45p ps=28u
M1006 Y X a_24_n37# gnd CMOSN w=40 l=2
+  ad=0.28n pd=94u as=0.12n ps=46u
M1007 a_n8_24# D vdd w_n24_11# CMOSP w=40 l=2
+  ad=80p pd=44u as=0.2n ps=90u
M1008 q_b Y vdd w_n24_11# CMOSP w=20 l=2
+  ad=100p pd=50u as=100p ps=50u
M1009 a_54_n17# Y gnd gnd CMOSN w=20 l=2
+  ad=60p pd=26u as=100p ps=50u
M1010 X clk a_n8_24# w_n24_11# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=80p ps=44u
C0 q q_b 0.04939f
C1 w_n24_11# Y 0.02665f
C2 w_n24_11# D 0.03235f
C3 Y clk 0.14965f
C4 clk D 0.06232f
C5 clk gnd 0.0019f
C6 w_n24_11# q 0.00787f
C7 w_n24_11# vdd 0.07546f
C8 clk vdd 0.08543f
C9 w_n24_11# X 0.01751f
C10 clk X 0.06538f
C11 w_n24_11# q_b 0.03495f
C12 clk q_b 0.01487f
C13 Y X 0.08401f
C14 gnd X 0.02157f
C15 w_n24_11# clk 0.16521f
C16 Y q_b 0.02946f
C17 q 0 0.149f 
C18 gnd 0 0.65467f 
C19 q_b 0 0.40714f 
C20 Y 0 0.34823f 
C21 X 0 0.24967f 
C22 vdd 0 0.69492f 
C23 D 0 0.19138f 
C24 clk 0 1.65901f 
C25 w_n24_11# 0 5.71202f 
.tran 10p 500n

.tran 10p 500n

* .measure tran tfall_1 TRIG V(d) VAL=0.9 RISE=1 TARG V(x) VAL=0.9 FALL=1
* .measure tran trise_1 TRIG V(d) VAL=0.9 FALL=1 TARG V(x) VAL=0.9 RISE=1
* .measure tran t_setup param='(trise_1+tfall_1)/2'

* .measure tran tfall_1 TRIG V(clk) VAL=0.9 RISE=1 TARG V(q) VAL=0.9 RISE=1
* .measure tran trise_1 TRIG V(clk) VAL=0.9 RISE=2 TARG V(q) VAL=0.9 FALL=1
* .measure tran t_CQ param='(trise_1+tfall_1)/2'

.measure tran td_xy TRIG V(clk) VAL=0.9 RISE=1 TARG V(y) VAL=0.9 FALL=1

.control
run
set curplottitle = 'A.Pranav_2024102038'
set color0 = white
set color1=black
set linewidth=10
plot v(q) v(d)+2 v(clk)+4
.endc