.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_P=20*LAMBDA
.param width_N=10*LAMBDA
.global gnd vdd
Vdd vdd gnd 1.8

Va a gnd pulse 0 1.8 0ns 100ps 100ps 20ns 40ns
Vb b gnd pulse 0 1.8 0ns 100ps 100ps 40ns 80ns

* SPICE3 file created from and.ext - technology: scmos

.option scale=90n

M1000 in a vdd w_n170_39# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1001 out in vdd w_n170_39# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1002 out in gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1003 in b a_n155_12# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1004 a_n155_12# a gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1005 vdd b in w_n170_39# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
C0 in a_n155_12# 0
C1 w_n170_39# a 0.02666f
C2 w_n170_39# b 0.02666f
C3 gnd a_n155_12# 0
C4 w_n170_39# in 0.03323f
C5 a in 0.00254f
C6 w_n170_39# vdd 0.0263f
C7 a vdd 0.0055f
C8 w_n170_39# out 0.00792f
C9 b in 0.00868f
C10 b vdd 0.0055f
C11 a gnd 0.00161f
C12 in vdd 0.02013f
C13 b gnd 0
C14 in out 0.04333f
C15 in gnd 0.04237f
C16 gnd 0 0.24383f 
C17 out 0 0.05528f 
C18 vdd 0 0.14812f 
C19 in 0 0.31192f 
C20 b 0 0.19193f 
C21 a 0 0.19193f 
C22 w_n170_39# 0 2.35733f 

.tran 10p 200n
.control
run
set curplottitle = 'A.Pranav_2024102038'
set color0 = white
set color1=black
set linewidth=10
plot v(out) v(b)+2 v(a)+4
.endc