.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_P=20*LAMBDA
.param width_N=10*LAMBDA
.global gnd vdd
Vdd vdd gnd 1.8

* Va g0_comp gnd pulse 0 1.8 0ns 100ps 100ps 20ns 40ns
* Vb g1_comp gnd pulse 0 1.8 0ns 100ps 100ps 40ns 80ns
* Vc p1_comp gnd pulse 0 1.8 0ns 100ps 100ps 80ns 160ns
* Vd p2_comp gnd pulse 0 1.8 0ns 100ps 100ps 160ns 320ns
* Ve g2_comp gnd pulse 0 1.8 0ns 100ps 100ps 320ns 640ns
* Vf p3_comp gnd pulse 0 1.8 0ns 100ps 100ps 640ns 1280ns
* Vg g3_comp gnd pulse 0 1.8 0ns 100ps 100ps 1280ns 2560ns
* Vh p4_comp gnd pulse 0 1.8 0ns 100ps 100ps 2560ns 5120ns
* Vi g4_comp gnd pulse 0 1.8 0ns 100ps 100ps 5120ns 10240ns


Va g0_comp gnd 1.8
Vb g1_comp gnd 1.8
Vc p1_comp gnd 1.8
Vd p2_comp gnd 0
Ve g2_comp gnd 1.8
Vf p3_comp gnd 1.8
Vg g3_comp gnd 1.8
Vh p4_comp gnd 0
Vi g4_comp gnd 0


* SPICE3 file created from carry.ext - technology: scmos

.option scale=90n

M1000 a_n148_n69# p1_comp a_n157_n69# w_n163_n75# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1001 out_5 out_4 a_n445_n190# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1002 c5 a_n1046_n288# vdd w_n1052_n294# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1003 a_n749_n76# p3_comp a_n758_n76# w_n764_n82# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1004 gnd g2_comp a_n758_n76# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1005 vdd out_12 out_13 w_n1105_n160# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1006 out_7 a_n617_n150# vdd w_n632_n156# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1007 a_n935_n148# out_10 a_n935_n181# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1008 a_n887_n78# p4_comp out_10 w_n902_n84# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1009 out_4 a_n431_n77# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1010 a_n1046_n288# out_13 gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1011 a_n392_n291# out_5 a_n401_n291# w_n407_n297# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1012 out_13 out_12 a_n1090_n187# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1013 vdd p2_comp a_n569_n80# w_n584_n86# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1014 out_5 g2_comp vdd w_n460_n163# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1015 vdd out_1 c2 w_n187_n148# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1016 c5 a_n1046_n288# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1017 vdd g3_comp a_n1067_n74# w_n1082_n80# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1018 vdd out_6 a_n617_n150# w_n632_n156# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1019 a_n445_n190# g2_comp gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1020 out_3 a_n290_n151# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1021 c2 out_1 a_n172_n175# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1022 vdd out_7 a_n719_n290# w_n734_n296# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1023 c4 a_n728_n290# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1024 a_n935_n181# c3 gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1025 out_11 a_n935_n148# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1026 a_n401_n291# out_5 gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1027 gnd p2_comp out_6 gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1028 out_12 a_n1076_n74# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1029 a_n242_n81# p2_comp out_2 w_n257_n87# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1030 gnd g0_comp a_n157_n69# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1031 c2 g1_comp vdd w_n187_n148# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1032 a_n719_n290# out_9 a_n728_n290# w_n734_n296# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1033 a_n617_n150# c2 vdd w_n632_n156# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1034 a_n290_n151# c1 vdd w_n305_n157# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1035 a_n172_n175# g1_comp gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1036 c3 a_n401_n291# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1037 a_n290_n184# c1 gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1038 a_n758_n76# p3_comp gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1039 a_n569_n80# p3_comp out_6 w_n584_n86# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1040 out_13 g4_comp vdd w_n1105_n160# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1041 gnd g1_comp a_n431_n77# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1042 gnd p1_comp out_2 gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1043 a_n617_n150# out_6 a_n617_n183# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1044 vdd out_11 a_n1037_n288# w_n1052_n294# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1045 out_8 a_n758_n76# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1046 out_11 a_n935_n148# vdd w_n950_n154# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1047 a_n1090_n187# g4_comp gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1048 a_n1067_n74# p4_comp a_n1076_n74# w_n1082_n80# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1049 gnd g3_comp a_n1076_n74# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1050 a_n422_n77# p2_comp a_n431_n77# w_n437_n83# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1051 c1 g0_comp vdd w_n52_n48# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1052 out_1 a_n157_n69# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1053 a_n1037_n288# out_13 a_n1046_n288# w_n1052_n294# CMOSP w=40 l=2
+  ad=0.46n pd=63u as=0.28n ps=94u
M1054 out_12 a_n1076_n74# vdd w_n1082_n80# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1055 vdd g0_comp a_n148_n69# w_n163_n75# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1056 a_n431_n77# p2_comp gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1057 gnd out_7 a_n728_n290# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1058 vdd out_10 a_n935_n148# w_n950_n154# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1059 vdd out_3 a_n392_n291# w_n407_n297# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1060 vdd p3_comp a_n887_n78# w_n902_n84# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1061 vdd g2_comp a_n749_n76# w_n764_n82# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1062 out_4 a_n431_n77# vdd w_n437_n83# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1063 out_6 p3_comp gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1064 a_n157_n69# p1_comp gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1065 vdd out_8 out_9 w_n787_n162# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1066 a_n617_n183# c2 gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1067 out_7 a_n617_n150# gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1068 c4 a_n728_n290# vdd w_n734_n296# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1069 a_n728_n290# out_9 gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1070 gnd p3_comp out_10 gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1071 out_3 a_n290_n151# vdd w_n305_n157# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1072 out_9 out_8 a_n772_n189# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1073 gnd out_3 a_n401_n291# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1074 out_8 a_n758_n76# vdd w_n764_n82# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1075 a_n935_n148# c3 vdd w_n950_n154# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1076 out_2 p2_comp gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1077 out_10 p4_comp gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1078 out_1 a_n157_n69# vdd w_n163_n75# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1079 out_9 g3_comp vdd w_n787_n162# CMOSP w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1080 vdd out_4 out_5 w_n460_n163# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1081 vdd out_2 a_n290_n151# w_n305_n157# CMOSP w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
M1082 a_n1076_n74# p4_comp gnd gnd CMOSN w=10 l=2
+  ad=0.115n pd=33u as=70p ps=34u
M1083 c1 g0_comp gnd gnd CMOSN w=6 l=2
+  ad=48p pd=28u as=36p ps=24u
M1084 gnd out_11 a_n1046_n288# gnd CMOSN w=10 l=2
+  ad=0.11n pd=42u as=0.115n ps=33u
M1085 c3 a_n401_n291# vdd w_n407_n297# CMOSP w=20 l=2
+  ad=0.16n pd=56u as=0.12n ps=52u
M1086 vdd g1_comp a_n422_n77# w_n437_n83# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1087 vdd p1_comp a_n242_n81# w_n257_n87# CMOSP w=40 l=2
+  ad=0.44n pd=0.102m as=0.46n ps=63u
M1088 a_n772_n189# g3_comp gnd gnd CMOSN w=20 l=2
+  ad=100p pd=30u as=0.14n ps=54u
M1089 a_n290_n151# out_2 a_n290_n184# gnd CMOSN w=20 l=2
+  ad=0.12n pd=52u as=100p ps=30u
C0 w_n764_n82# out_8 0.00792f
C1 w_n52_n48# g0_comp 0.03621f
C2 w_n407_n297# out_5 0.02898f
C3 a_n935_n181# gnd 0
C4 c1 vdd 0.02164f
C5 a_n1076_n74# out_12 0.0443f
C6 g3_comp out_8 0.0426f
C7 p3_comp g2_comp 0.0362f
C8 w_n584_n86# vdd 0.01053f
C9 a_n290_n184# gnd 0
C10 out_6 gnd 0.11504f
C11 w_n187_n148# vdd 0
C12 p4_comp g3_comp 0.03647f
C13 out_4 c2 0
C14 g1_comp vdd 0.09063f
C15 g3_comp gnd 0.0055f
C16 p1_comp vdd 0.27572f
C17 p2_comp gnd 0.01214f
C18 out_13 a_n1046_n288# 0.00986f
C19 g2_comp c2 0
C20 w_n1082_n80# a_n1076_n74# 0.03379f
C21 w_n787_n162# vdd 0
C22 out_13 a_n1090_n187# 0
C23 c1 a_n290_n151# 0.0028f
C24 w_n52_n48# c1 0.00792f
C25 w_n163_n75# out_1 0.00792f
C26 out_2 c1 0.04782f
C27 w_n460_n163# c2 0.01059f
C28 w_n437_n83# out_4 0.00792f
C29 a_n431_n77# out_4 0.0443f
C30 out_10 c3 0.04782f
C31 w_n163_n75# g0_comp 0.02877f
C32 w_n437_n83# g2_comp 0.00166f
C33 c3 a_n401_n291# 0.04325f
C34 a_n157_n69# gnd 0.15676f
C35 w_n902_n84# p4_comp 0.02866f
C36 w_n764_n82# vdd 0.01655f
C37 w_n632_n156# c2 0.02978f
C38 out_6 vdd 0.0055f
C39 w_n734_n296# c4 0.00792f
C40 w_n1082_n80# g4_comp 0
C41 out_6 a_n617_n150# 0.00868f
C42 a_n728_n290# gnd 0.15676f
C43 g3_comp vdd 0.09063f
C44 p4_comp gnd 0.00809f
C45 p2_comp vdd 0.27572f
C46 out_12 out_13 0.01046f
C47 w_n1105_n160# out_12 0.02706f
C48 out_3 gnd 0.0048f
C49 a_n935_n148# a_n935_n181# 0
C50 a_n290_n151# a_n290_n184# 0
C51 w_n764_n82# a_n758_n76# 0.03379f
C52 w_n163_n75# g1_comp 0.0011f
C53 w_n163_n75# p1_comp 0.02866f
C54 p2_comp out_2 0.00998f
C55 a_n157_n69# vdd 0.00184f
C56 g3_comp a_n1076_n74# 0.00808f
C57 out_1 c2 0.00858f
C58 w_n902_n84# vdd 0.01053f
C59 out_8 vdd 0.0055f
C60 w_n305_n157# out_3 0.00792f
C61 a_n728_n290# vdd 0.00184f
C62 w_n407_n297# c3 0.00849f
C63 a_n617_n150# gnd 0.04237f
C64 out_5 gnd 0.00405f
C65 out_3 vdd 0.34396f
C66 w_n1052_n294# c5 0.00792f
C67 w_n407_n297# a_n401_n291# 0.03379f
C68 w_n1052_n294# vdd 0.01655f
C69 w_n437_n83# a_n431_n77# 0.03379f
C70 w_n257_n87# p1_comp 0.02869f
C71 w_n764_n82# g2_comp 0.02866f
C72 a_n290_n151# gnd 0.04237f
C73 w_n584_n86# p3_comp 0.02866f
C74 a_n935_n148# gnd 0.04237f
C75 a_n758_n76# out_8 0.0443f
C76 w_n950_n154# vdd 0.0263f
C77 a_n617_n183# gnd 0
C78 out_2 gnd 0.11504f
C79 w_n305_n157# vdd 0.0263f
C80 g2_comp p2_comp 0.0316f
C81 p4_comp a_n1076_n74# 0.00986f
C82 a_n290_n151# out_3 0.0443f
C83 c1 c2 0
C84 w_n787_n162# out_9 0.00809f
C85 a_n1076_n74# gnd 0.15676f
C86 a_n758_n76# gnd 0.15676f
C87 w_n187_n148# c2 0.00926f
C88 g1_comp c2 0.00328f
C89 w_n1082_n80# out_12 0.00792f
C90 out_11 gnd 0.0048f
C91 a_n617_n150# vdd 0.02013f
C92 out_5 vdd 0.01831f
C93 w_n950_n154# a_n935_n148# 0.03323f
C94 c1 out_1 0.00657f
C95 w_n305_n157# a_n290_n151# 0.03323f
C96 w_n163_n75# a_n157_n69# 0.03379f
C97 w_n1052_n294# out_11 0.02866f
C98 w_n187_n148# out_1 0.02706f
C99 w_n305_n157# out_2 0.02666f
C100 w_n632_n156# out_6 0.02666f
C101 out_7 a_n728_n290# 0.00808f
C102 g3_comp out_9 0.00254f
C103 g1_comp out_1 0.03651f
C104 g0_comp c1 0.04327f
C105 g4_comp gnd 0
C106 w_n764_n82# p3_comp 0.02869f
C107 w_n437_n83# g1_comp 0.02866f
C108 out_7 gnd 0.0048f
C109 w_n257_n87# p2_comp 0.02866f
C110 a_n290_n151# vdd 0.02013f
C111 a_n935_n148# vdd 0.02013f
C112 g1_comp a_n431_n77# 0.00808f
C113 p3_comp out_6 0.00998f
C114 w_n52_n48# vdd 0.00602f
C115 out_2 vdd 0.0055f
C116 w_n734_n296# a_n728_n290# 0.03379f
C117 w_n950_n154# out_11 0.00792f
C118 g3_comp p3_comp 0.02606f
C119 a_n617_n150# a_n617_n183# 0
C120 out_9 a_n772_n189# 0
C121 a_n758_n76# vdd 0.00184f
C122 g2_comp gnd 0.0055f
C123 a_n1076_n74# vdd 0.00184f
C124 out_6 c2 0.04782f
C125 out_11 vdd 0.34396f
C126 out_13 gnd 0.00405f
C127 out_2 a_n290_n151# 0.00868f
C128 out_8 out_9 0.01046f
C129 w_n1052_n294# out_13 0.02898f
C130 w_n187_n148# c1 0.01941f
C131 out_9 a_n728_n290# 0.00986f
C132 g1_comp c1 0.00921f
C133 w_n902_n84# out_10 0.0084f
C134 w_n902_n84# p3_comp 0.02869f
C135 out_9 gnd 0.00405f
C136 out_7 vdd 0.34396f
C137 w_n437_n83# p2_comp 0.02866f
C138 c3 gnd 0.00164f
C139 g4_comp vdd 0.0055f
C140 p2_comp a_n431_n77# 0.00986f
C141 w_n187_n148# g1_comp 0.02666f
C142 a_n617_n150# out_7 0.0443f
C143 a_n935_n148# out_11 0.0443f
C144 w_n163_n75# vdd 0.01655f
C145 out_4 vdd 0.0055f
C146 p1_comp g1_comp 0.02033f
C147 p4_comp out_10 0.00998f
C148 a_n1046_n288# gnd 0.15676f
C149 out_10 gnd 0.11504f
C150 g2_comp vdd 0.09063f
C151 p3_comp gnd 0.01214f
C152 w_n734_n296# vdd 0.01655f
C153 out_4 out_5 0.01046f
C154 a_n401_n291# gnd 0.15676f
C155 g2_comp out_5 0.00254f
C156 w_n1082_n80# g3_comp 0.02866f
C157 out_3 a_n401_n291# 0.00808f
C158 out_13 vdd 0.01831f
C159 c2 gnd 0.00164f
C160 w_n1052_n294# a_n1046_n288# 0.03379f
C161 w_n1105_n160# vdd 0
C162 w_n460_n163# vdd 0
C163 w_n950_n154# c3 0.02978f
C164 c2 out_3 0.00595f
C165 a_n157_n69# out_1 0.0443f
C166 w_n460_n163# out_5 0.00809f
C167 w_n584_n86# out_6 0.0084f
C168 w_n950_n154# out_10 0.02666f
C169 g0_comp a_n157_n69# 0.00808f
C170 out_9 vdd 0.01831f
C171 w_n584_n86# p2_comp 0.02869f
C172 c3 vdd 0.01119f
C173 w_n632_n156# vdd 0.0263f
C174 g2_comp a_n758_n76# 0.00808f
C175 w_n632_n156# a_n617_n150# 0.03323f
C176 w_n257_n87# vdd 0.01053f
C177 a_n1046_n288# c5 0.04333f
C178 a_n431_n77# gnd 0.15676f
C179 p2_comp g1_comp 0.03291f
C180 w_n305_n157# c2 0.02319f
C181 a_n728_n290# c4 0.04333f
C182 a_n1046_n288# vdd 0.00184f
C183 out_10 vdd 0.0055f
C184 p3_comp vdd 0.27572f
C185 g0_comp gnd 0.047f
C186 a_n401_n291# vdd 0.00184f
C187 w_n787_n162# g3_comp 0.02666f
C188 out_5 a_n401_n291# 0.00986f
C189 w_n1082_n80# p4_comp 0.02869f
C190 c2 vdd 0.04157f
C191 c2 a_n617_n150# 0.0028f
C192 c3 a_n935_n148# 0.0028f
C193 c2 out_5 0.00524f
C194 w_n257_n87# out_2 0.0084f
C195 out_5 a_n445_n190# 0
C196 c2 a_n172_n175# 0
C197 out_10 a_n935_n148# 0.00868f
C198 w_n734_n296# out_7 0.02866f
C199 w_n407_n297# out_3 0.02866f
C200 p1_comp a_n157_n69# 0.00986f
C201 g2_comp out_4 0.03651f
C202 w_n764_n82# g3_comp 0.0011f
C203 out_1 vdd 0.0055f
C204 c1 gnd 0.00164f
C205 p3_comp a_n758_n76# 0.00986f
C206 c2 a_n290_n151# 0.0098f
C207 g4_comp out_13 0.00254f
C208 w_n437_n83# vdd 0.01655f
C209 a_n431_n77# vdd 0.00184f
C210 w_n1105_n160# g4_comp 0.02666f
C211 out_2 c2 0
C212 out_12 vdd 0.0055f
C213 g1_comp gnd 0.0055f
C214 p1_comp gnd 0.00809f
C215 g0_comp vdd 0.23628f
C216 out_11 a_n1046_n288# 0.00808f
C217 w_n460_n163# out_4 0.02706f
C218 w_n787_n162# out_8 0.02706f
C219 w_n460_n163# g2_comp 0.02666f
C220 w_n1082_n80# vdd 0.01655f
C221 w_n632_n156# out_7 0.00792f
C222 w_n1105_n160# out_13 0.00809f
C223 w_n305_n157# c1 0.02978f
C224 w_n407_n297# vdd 0.01655f
C225 w_n734_n296# out_9 0.02898f
C226 gnd 0 2.71371f 
C227 vdd 0 2.84426f 
C228 a_n401_n291# 0 0.41891f 
C229 c4 0 0.05528f 
C230 a_n728_n290# 0 0.41891f 
C231 c5 0 0.05528f 
C232 a_n1046_n288# 0 0.41891f 
C233 out_3 0 1.05137f 
C234 out_5 0 0.61462f 
C235 a_n290_n151# 0 0.31192f 
C236 out_7 0 1.05137f 
C237 out_9 0 0.61462f 
C238 a_n617_n150# 0 0.31192f 
C239 out_11 0 1.05137f 
C240 out_13 0 0.61462f 
C241 c2 0 5.67916f 
C242 a_n935_n148# 0 0.31192f 
C243 g4_comp 0 0.64569f 
C244 c3 0 11.0874f 
C245 out_1 0 0.54466f 
C246 c1 0 3.965f 
C247 a_n157_n69# 0 0.41891f 
C248 out_2 0 0.46934f 
C249 out_4 0 0.56427f 
C250 a_n431_n77# 0 0.41891f 
C251 out_6 0 0.46934f 
C252 out_8 0 0.56423f 
C253 a_n758_n76# 0 0.41891f 
C254 out_10 0 0.46934f 
C255 out_12 0 0.57206f 
C256 g1_comp 0 4.67407f 
C257 p2_comp 0 2.06794f 
C258 a_n1076_n74# 0 0.41891f 
C259 g2_comp 0 5.56998f 
C260 p3_comp 0 2.07313f 
C261 g0_comp 0 0.92489f 
C262 p1_comp 0 0.91281f 
C263 g3_comp 0 5.38398f 
C264 p4_comp 0 1.372f 
C265 w_n407_n297# 0 4.17228f 
C266 w_n734_n296# 0 4.17228f 
C267 w_n1052_n294# 0 4.17228f 
C268 w_n187_n148# 0 1.42524f 
C269 w_n460_n163# 0 1.42524f 
C270 w_n305_n157# 0 2.35733f 
C271 w_n787_n162# 0 1.42524f 
C272 w_n632_n156# 0 2.35733f 
C273 w_n1105_n160# 0 1.42524f 
C274 w_n950_n154# 0 2.35733f 
C275 w_n52_n48# 0 1.15707f 
C276 w_n163_n75# 0 4.17228f 
C277 w_n257_n87# 0 3.09154f 
C278 w_n437_n83# 0 4.17228f 
C279 w_n584_n86# 0 3.09154f 
C280 w_n764_n82# 0 4.17228f 
C281 w_n902_n84# 0 3.09154f 
C282 w_n1082_n80# 0 4.17228f 

.tran 100p 10241ns
.control
run
set curplottitle = 'A.Pranav_2024102038'
set color0 = white
set color1=black
set linewidth=10
plot v(c5) v(c4)+2 v(c3)+4 v(c2)+6 v(c1)+8
.endc